* C:\users\quan\My Documents\VGU\Power-Meter\ltspice\PMOS_sw_reduced_parts.asc
V1 Vin 0 PULSE(18 31 0 1u 1u 200m 500m 2)
R_load out 0 9
D1 gate Vpos EDZV18B
C1 NC_01 0 100µF
R1 reverse_gate 0 50
D2 reverse_gate Vpos EDZV18B
V§1_2ref 1_2ref 0 1.2
XU4 1_2ref N012 5V 0 OVLO LM393
R7 N012 Vpos 27k
R8 0 N012 1k
R9 5V OVLO 10k
C3 NC_02 0 1µF
Q1 N001 N004 0 0 2N2222
R_gate2 N004 gate_ctrl 1k
R2 Vpos N001 3k3
Q2 Vpos N001 gate 0 2N2222
D3 N003 N001 D
XU1 Vin reverse_gate Vpos IRF4905
XU2 out gate Vpos IRF4905
R11 gate N003 100k
XU9 out gate Vpos IRF4905
XU10 Vin reverse_gate Vpos IRF4905
XU11 N008 N006 5V 0 gate_ctrl LM393
R19 N008 5V 10k
R20 5V N006 10k
R21 N006 0 10k
D6 N008 OVLO 1N5817
D7 N008 OCP 1N5817
R10 5V gate_ctrl 1k
V§RESET N010 0 PULSE(0 5 0 1u 1u 10m 160m 2)
XU3 N009 0 N007 TL431
XU5 N005 0 5V LM7805
XU7 N005 N007 Vpos IRF4905
R3 Vpos N007 1k
R4 Vpos N009 3k3
R5 N009 0 1k1
XU6 N015 N011 5V 0 N013 LM393
D4 N010 N011 1N4148
R6 5V N011 10k
R12 N011 0 10k
D9 N017 N015 1N4148
V§ALE N017 0 PULSE(0 5 100m 1u 1u 5m)
D10 N016 N015 1N4148
D11 N013 N016 1N4148
R13 N015 0 10k
R14 5V N013 1k
Q3 OCP N014 0 0 NPN
R15 5V OCP 1k
R16 N014 N013 6k8
XU8 N002 gate Vpos TL431
R18 Vpos N002 11k
R22 N002 0 1k
.model D D
.lib C:\users\quan\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\quan\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 800m 0 1m startup
.param V_in=30
.param R_L = (V_in^2)/100
.Model SW_1 SW(Ron=10m Roff=100Meg Vt=3)
.lib ..\sym\ZZZ\MOS\IRF\LIB\irf4905.spi
.lib regulators.lib
.lib Sborka.lib
.lib TL431.mod
.backanno
.end
